data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CCOc1cccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1.[H+]", "products": "CCOc1cccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1"}, {"reactants": "CCOc1cccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1", "products": "CCOc1cccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1.O"}, {"reactants": "CCOc1cccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1", "products": "CCOc1cccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1"}, {"reactants": "CCOc1cccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1", "products": "CCOc1cccc(C2=C(C)C(C)(C)C(C#[O+])CC2)c1"}, {"reactants": "CCOc1cccc(C2=C(C)C(C)(C)C(C#[O+])CC2)c1.O", "products": "CCOc1cccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1"}, {"reactants": "CCOc1cccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1", "products": "CCOc1cccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1"}, {"reactants": "CCOc1cccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1", "products": "CCOc1cccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1"}, {"reactants": "CCOc1cccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1", "products": "CCOc1cccc(C2CCC3C(=O)OC2(C)C3(C)C)c1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(F)C2C(C)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(F)CC1(C)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(F)CC1(C)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(F)CC1(C)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(F)CC1(C)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(F)CC1(C)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(Cl)cc1F)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(Cl)cc1F)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(Cl)cc1F)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccc(Cl)cc2F)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccc(Cl)cc2F)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccc(Cl)cc2F)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccc(Cl)cc2F)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccc(Cl)cc2F)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccc(Cl)cc2F)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2ccc(Cl)cc2F)O1.[Rh]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)CBr)c([Si](C)(C)C)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CBr)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CBr)c([Si](C)(C)C)cc1=C", "products": "C[C@]12CC[C@@H]3c4cc([Si](C)(C)CBr)c([Si](C)(C)C)cc4CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1ccc(C)c(C(=O)C2C3CCC2C3)c1", "products": "COc1ccc(C)c([C]([O])C2C3CCC2C3)c1"}, {"reactants": "COc1ccc(C)c([C]([O])C2C3CCC2C3)c1", "products": "COc1ccc(C)c(C([O])=CC2C[CH]CC2)c1"}, {"reactants": "COc1ccc(C)c(C([O])=CC2C[CH]CC2)c1", "products": "COc1ccc(C)c(C(O)=CC2C=CCC2)c1"}, {"reactants": "COc1ccc(C)c(C(O)=CC2C=CCC2)c1", "products": "COc1ccc(C)c(C(=O)CC2C=CCC2)c1"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cccc(Cl)c1C)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(Cl)c1C)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(Cl)c1C)C(C)C", "products": "Cc1c(Cl)cccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21"}, {"reactants": "Cc1c(Cl)cccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21", "products": "Cc1c(Cl)cccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH]"}, {"reactants": "Cc1c(Cl)cccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH].[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1c(Cl)cccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]"}, {"reactants": "Cc1c(Cl)cccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]", "products": "Cc1c(Cl)cccc1[Si]1(c2ccccc2)OC(C(C)C)CC1CC=O.[Rh]"}]}
